US05229384
1.7 Preparation of 7-hydroxymethyl-benzo-1,2,3-thiadiazole (compound 6.1) (intermediate)
110 ml of triethyl borate are added dropwise to a suspension of 54 g of carboxybenzo-1,2,3-thiadiazole in 420 ml of tetrahydrofuran at room temperature under a nitrogen atmosphere, while stirring, stirring is continued for 1 hour and 45.6 ml of borane-dimethyl sulfide complex in 60 ml of tetrahydrofuran are then added dropwise, with gentle cooling, vigorous evolution of gas being observed. After the mixture has been stirred overnight and left to stand at room temperature, it is cooled again to 5°-10° C. and 200 ml of methanol are added dropwise, while stirring and cooling thoroughly, vigorous evolution of gas again occurring. The mixture is then evaporated in vacuo, a further 300 ml of methanol are added and the mixture is evaporated again. The residue is purified on silica gel (solvent: ethyl acetate/hexane) and the resulting product is recyrstallized from ethyl acetate/hexane. The resulting title compound melts at 79°-81° C.

reactant | triethyl borate | 110 ml | B(OCC)(OCC)OCC | C6H15BO3
reactant | carboxybenzo-1,2,3-thiadiazole | 54 g | C(=O)(O)C1=CC=CC2=C1N=NS2 | C7H4N2O2S
reactant | methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 420 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 7-hydroxymethyl-benzo-1,2,3-thiadiazole | OCC1=CC=CC=2N=NSC21 | C7H6N2OS
